US08334456B2
Step 1: Preparation of 4,8-didodecynylbenzo[1,2-b:4,5-b′]dithiophene.
To a solution of dodecyne (17.5 mL, 81.7 mmol) in THF (20 mL) in a 250 mL flask equipped with a condenser under an argon atmosphere was added dropwise 36 mL (72 mmol) of a 2 M solution of isopropylmagnesium chloride in THF at room temperature. After addition, the reaction mixture was heated at 50° C. for 95 min and cooled to room temperature. 4,8-Dihydrobenzo[1,2-b:4,5-b′]dithiophene-4,8-dione (3 g, 13.6 mmol) was added, and the mixture was heated at 50° C. for 1 hour before cooling down to room temperature. Subsequently, a solution of 20 g of SnCl2 in 50 mL 10% aqueous HCl solution was added in a dropwise fashion followed by further heating at 60° C. for 1 hour. After the reaction, brine (30 mL) was added. The organic phase was separated and evaporated under vacuum. The residue was diluted with MeOH (100 mL) and filtered. The solid was washed with MeOH several times. The brown solid was purified by column chromatography with CHCl3:hexane 5:6 as eluent. Recrystallization of the crude product collected from flash chromatography from hexane gave 4.03 g (57% yield) of a pale yellow crystal after drying in vacuo. 1H NMR (CDCl3, 500 MHz), δ=7.59 (d, J=5.5 Hz, 2H), 7.51 (d, J=6.0 Hz, 2H), 2.65 (t, J=6.5 Hz, 4H), 1.70-1.80 (m, 4H), 1.56-1.65 (m, 4H), 1.22-1.47 (m, 24H), 0.90 (t, J=6.5 Hz, 6H).

reactant | dodecyne | 81.7 mmol, 17.5 mL | C#CCCCCCCCCCC | C12H22
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | 4,8-Dihydrobenzo[1,2-b:4,5-b′]dithiophene-4,8-dione | 13.6 mmol, 3 g | S1C2=C(C=C1)C(C=1SC=CC1C2=O)=O | C10H4O2S2
reactant | SnCl2 | 20 g | Cl[Sn]Cl
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | HCl | 50 mL | Cl | ClH
solvent | brine | 30 mL | [Cl-].[Na+].O
product | 4,8-didodecynylbenzo[1,2-b:4,5-b′]dithiophene | 4.03 g, 57% yield | C(#CCCCCCCCCCC)C1=C2C(SC=C2)=C(C2=C1SC=C2)C#CCCCCCCCCCC | C34H46S2
